US08372842B2
A solution of (E)-tert-butyl 4-(3-(3-methoxy-3-oxoprop-1-enyl)-1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (380 mg, 0.65 mmol) in 25% TFA/CH2Cl2 was stirred at room temperature. Next, the solvent was removed, and the residue was evaporated from toluene (2×30 mL). Neat TFA (10 mL) was added to the resulting residue and heated at 60° C. for 4 hours. TFA was removed in vacuo, and the residue was evaporated from toluene (2×10 mL). 2M HCl in ether (5 mL) was added to the residue, and the mixture was sonicated for a few minutes. The solid formed was filtered, washed with ether (3×10 mL) and dried under high vacuum for 6 hours to provide (E)-methyl 3-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl)acrylate hydrochloride salt (300 mg, 106% yield) as a solid. LCMS (APCI+) m/z 364.1 (M+H)+, Retention time=2.61 minutes.

reactant | (E)-tert-butyl 4-(3-(3-methoxy-3-oxoprop-1-enyl)-1-(4-methoxybenzyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.65 mmol, 380 mg | COC(/C=C/C1=NN(C2=NC=C(C(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)CC2=CC=C(C=C2)OC)=O | C33H37N5O5
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (E)-methyl 3-(5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl)acrylate hydrochloride salt | 300 mg, 106% yield | Cl.C1(=CC=CC=C1)C=1C(=C2C(=NC1)NN=C2/C=C/C(=O)OC)N2CCNCC2 | InChI=1S/C20H21N5O2.ClH/c1-27-17(26)8-7-16-18-19(25-11-9-21-10-12-25)15(13-22-20(18)24-23-16)14-5-3-2-4-6-14;/h2-8,13,21H,9-12H2,1H3,(H,22,23,24);1H/b8-7+;
